Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Shellfish Derived / morphine
 
Attending: ___.
 
Chief Complaint:
incisional hernia
 
Major Surgical or Invasive Procedure:
___ open incisional hernia repair with mesh

 
History of Present Illness:
___ w/ history of multiple operations and previous mesh repairs 
who presented to clinic with increasing pain in the area for the 
past 6 months. He had a 3 cm reducible midline incisional hernia 
and elected to undergo operative repair scheduled for ___. 
 
Past Medical History:
PMH: CAD, HTN, hypercholesterol, avascular necrosis Right hip, 

PSH: CABG (___), Umbilical hernia repair (___), Incisional 
hernia repair (___), lap chole, Right shoulder surgery (___)

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Discharge exam: 98.3 68 106/63 18 94% RA
Gen: NAD, A&Ox3
CV: RRR
Pulm: CTAB
Abd: soft, appropriately tender around incision, nondistended
Wound: serosanguinous staining, otherwise dry and intact w/ 
steri-strips
Ext: WWP
 
Pertinent Results:
none
 
Brief Hospital Course:
Mr. ___ was admitted to the surgery service after his open 
incisional hernia repair. He was stable and transferred to the 
floor from PACU. His diet was advanced as tolerated. He 
initially had some post-operative pain was that improved with 
narcotic medication. He ambulated and voided without issue and 
was ready for discharge on POD 2 to home. 
 
Medications on Admission:
HCTZ 25', Lisinopril 40', Oxybutinin 5', Metoprolol XR 100', 
Crestor 20', Tamsulosin 0.4'
 
Discharge Medications:
1. hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
2. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
3. oxybutynin chloride 5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
5. rosuvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).  
7. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).  
8. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.
Disp:*42 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
incisional hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the ___ (Dr. ___ surgery service for 
surgery for your incisional hernia.
 
General Discharge Instructions:
Please resume all regular home medications, unless specifically 
advised not to take a particular medication.  Please take any 
new medications as prescribed. Please take the prescribed 
analgesic medications as needed.  You may not drive or operate 
heavy machinery while taking narcotic analgesic medications.  
You may also take acetaminophen (Tylenol) as directed, but do 
not exceed 4000 mg in one day. Please get plenty of rest, 
continue to walk several times per day, and drink adequate 
amounts of fluids.  Avoid strenuous physical activity and 
refrain from heavy lifting greater than 10 lbs., until you 
follow-up with your surgeon, who will instruct you further 
regarding activity restrictions.  Please also follow-up with 
your primary care physician.
 
Incision Care:
*Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site.
*Avoid swimming and baths until cleared by your surgeon.
*You may shower and wash incisions with a mild soap and warm 
water. Gently pat the area dry.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
 
Followup Instructions:
___